US04010260
Benzyloxycarbonyl-D-tryptophyl-D-phenylalanine Methyl Ester (Z-D-Trp-D-Phe-OMe)
A solution of Z-D-Trp-OH (3.62 g, 10.7 mmoles), H-D-Phe-Ome.HCl (2.3 g, 10.7 mmoles) and 1-hydroxybenzotriazole (2.89 g, 21.4 mmoles) in dry DMF (25 ml) is cooled to 0° C and N-ethylmorpholine (1.37 ml, 10.7 mmoles) is added. A cold (0° C) solution of DCC (2.27 g, 11 mmoles) in DMF (6 ml) is added dropwise and the reaction mixture is stirred for 1 hr at 0° C and 1 hr at room temperature. The reaction mixture is then cooled to 0° C, filtered, the filtrate evaporated under reduced pressure and taken upon in EtOAc. The EtOAc solution is washed with saturated NaHCO3 solution, water, cold citric acid (2N), water, saturated NaHCO3 solution and saturated NaCl solution, dried with MgSO4, and evaporated under reduced pressure to afford the crude title product which is subjected to chromatography on a column of silica gel (500 g) with CHCl3 containing MeOH (1%) as eluent. The eluates are evaporated under reduced pressure and the residue is crystallized from EtOAc-petroleum ether to give the title compound; mp 130° - 131° C, [α]D25 = +34.1° (c = 1, DMF).

reactant | Z-D-Trp-OH | 10.7 mmoles, 3.62 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | H-D-Phe-Ome.HCl | 10.7 mmoles, 2.3 g | COC(=O)[C@@H](CC1=CC=CC=C1)N.Cl
reactant | 1-hydroxybenzotriazole | 21.4 mmoles, 2.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 10.7 mmoles, 1.37 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 11 mmoles, 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Benzyloxycarbonyl-D-tryptophyl-D-phenylalanine Methyl Ester | COC([C@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CC1=CC=CC=C1)=O | C29H29N3O5
